US05039676
1-Bromo-6,6-dimethyl-2,4-heptadiyne
A solution of 5.0 g (37.3 mmole) of 1-hydroxy-6,6-dimethyl-2,4-heptadiyne and 14.8 g (44.7 mmole) of carbon tetrabromide in 250 mL of H2CCl2 was cooled to 0°-5° C. and 12.7 g (48.4 mmole) of triphenylphosphine was added thereto. The so formed mixture was stirred for 2 hours at 0°-5° C. The reaction mixture was concentrated to about 50 ml and poured into 1 liter of petroleum ether. The mixture was stirred 15 min. and the petroleum ether was removed by decantation. The oily residue was stirred for 15 min. with another 1 liter of petroleum ether which was decanted off. The combined petroleum ether extracts were concentrated to an oil which was chromatographed on silica gel, eluting with petroleum ether to give 6.87 g of the title compound, M/e, M+ 200.

reactant | 1-hydroxy-6,6-dimethyl-2,4-heptadiyne | 37.3 mmole, 5.0 g | OCC#CC#CC(C)(C)C | C9H12O
reactant | carbon tetrabromide | 44.7 mmole, 14.8 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 48.4 mmole, 12.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | H2CCl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromo-6,6-dimethyl-2,4-heptadiyne | 6.87 g | BrCC#CC#CC(C)(C)C | C9H11Br
